US07868017B2
c) Benzo[d]isothiazol-5-ol
5-Aminobenzo[d]isothiazole (217 mg, 1.45 mmol) was suspended/dissolved in water (20 mL) containing concentrated sulphuric acid (1.5 mL) and heated at 90° C. for 2 h. This solution was cooled to 0° C. and sodium nitrite (105 mg, 1.52 mmol) in water (1 mL) was added over 5 min and the mixture allowed to warm to ambient temperature. The diazonium salt was added dropwise over 20 min to a solution of concentrated sulphuric acid (1 mL) in water (12 mL) at 90° C. and stirred at this temperature for 2 h before hot filtering to remove an insoluble solid. The filtrate was extracted with dichloromethane (3×20 mL) and the combined organic extracts washed with brine (50 mL), dried (MgSO4) and concentrated in vacuo to give the title compound as a brown solid (65 mg, 30%).

reactant | 5-Aminobenzo[d]isothiazole | 1.45 mmol, 217 mg | NC=1C=CC2=C(C=NS2)C1 | C7H6N2S
reactant | sulphuric acid | 1.5 mL | S(O)(O)(=O)=O | H2O4S
reactant | sodium nitrite | 1.52 mmol, 105 mg | N(=O)[O-].[Na+]
reactant | sulphuric acid | 1 mL | S(O)(O)(=O)=O | H2O4S
solvent | water | 20 mL | O | H2O
solvent | water | 1 mL | O | H2O
solvent | water | 12 mL | O | H2O
product | Benzo[d]isothiazol-5-ol | 65 mg, 30% | S1N=CC2=C1C=CC(=C2)O | C7H5NOS
